US06339089B2
4-Allylamino-2-chloro-7-propylthieno[3,2-d]pyrimidine
In 5 ml of DMF, 371 mg (1.5 mmol) of 2,4-dichloro-7-propylthieno[3,2-d]pyrimidine was dissolved, and then 188 mg (3.3 mmol) of allylamine was added dropwise thereto under ice cooling over 5 minutes. The reaction solution was stirred at 0° C. for one hour and then allowed to resume room temperature, followed by stirring for further 1 hour. After completion of the reaction, ice water was added to the reaction mixture, followed by extraction with ethyl acetate (50 ml×3). After the organic layer was washed successively with 1N hydrochloric acid, water and brine and dried over anhydrous sodium sulfate, the solvent was distilled off under reduced pressure. The residue was purified by silica gel chromatography (eluent: ethyl acetate-hexane=1/10) to give 244 mg (yield: 60.7%) of the title compound.

reactant | 2,4-dichloro-7-propylthieno[3,2-d]pyrimidine | 1.5 mmol, 371 mg | ClC=1N=C(C2=C(N1)C(=CS2)CCC)Cl | C9H8Cl2N2S
reactant | allylamine | 3.3 mmol, 188 mg | C(C=C)N | C3H7N
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 4-Allylamino-2-chloro-7-propylthieno[3,2-d]pyrimidine | 244 mg, yield: 60.7% | C(C=C)NC=1C2=C(N=C(N1)Cl)C(=CS2)CCC | C12H14ClN3S
